US08563617B2
36.2 1-(4-Chlorobenzyl)-7-(difluoromethoxy)-1,2,3,4-tetrahydronaphthalen-2-amine hydrochloride
tert-Butyl [1-(4-chlorobenzyl)-7-(difluoromethoxy)-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate (30 mg, 0.069 mmol) was dissolved in dichloromethane (2 mL). 5N isopropanolic hydrochloric acid (0.3 mL) were added and the reaction mixture was stirred at room temperature for 3 h. The solvents were evaporated in vacuo. Yield: 26 mg (0.069 mmol, 100%, colorless solid).

reactant | tert-Butyl [1-(4-chlorobenzyl)-7-(difluoromethoxy)-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate | 0.069 mmol, 30 mg | ClC1=CC=C(CC2C(CCC3=CC=C(C=C23)OC(F)F)NC(OC(C)(C)C)=O)C=C1 | C23H26ClF2NO3
reactant | hydrochloric acid | 5N, 0.3 mL | Cl | ClH
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 1-(4-Chlorobenzyl)-7-(difluoromethoxy)-1,2,3,4-tetrahydronaphthalen-2-amine hydrochloride | Cl.ClC1=CC=C(CC2C(CCC3=CC=C(C=C23)OC(F)F)N)C=C1 | InChI=1S/C18H18ClF2NO.ClH/c19-13-5-1-11(2-6-13)9-16-15-10-14(23-18(20)21)7-3-12(15)4-8-17(16)22;/h1-3,5-7,10,16-18H,4,8-9,22H2;1H
